US04410520
A mixture of morpholine (0.315 ml, 3.6 mmol) and 3,3-dichloro-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (0.5 g) was stirred under nitrogen at 110° for 18 hours. The solution was diluted to 10 ml with chloroform and cooled to 0°. 20% H2SO4 (1 ml) was added and the solution stirred for 2 hours at 0°. The solution was extracted with chloroform (2×20 ml) and the extracts washed with 2N HCl (2×10 ml) and saturated brine (5 ml). The solution was dried over magnesium sulfate and evaporated under reduced pressure to yield 1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2,3- dione. NMR (CDCl3): δ1.25 (t,3H); 2.6 (m,2H); 3.6 (m, 2H); 4.2 (q, 2H); 7.3 (m, 4H).

reactant | morpholine | 3.6 mmol, 0.315 ml | N1CCOCC1 | C4H9NO
reactant | 3,3-dichloro-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.5 g | ClC1(C(N(C2=C(CC1)C=CC=C2)CC(=O)OCC)=O)Cl | C14H15Cl2NO3
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2,3- dione | C(C)OC(=O)CN1C(C(CCC2=C1C=CC=C2)=O)=O | C14H15NO4
